Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left visual field disturbance
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ RHW with HTN, lipids and right carotid stenosis prsents from
OSH for neuro eval. Next, Neurology was called.

She had an episode of sudden onset visual loss on the right side
this year in ___, which was thought to be because of "Blood
clot from the neck vessel" after her doctor evaluated her with
___ of carotids. She was not feeling "right" for 3 days and
thought she may be having UTI. This morning, she was driving to
her ___ place to go for MD appointment. While driving she
started bumping into things on the left side and noted that her
car was "jagged". She was taken to OSH for evaluation. 97.7, 68,
17, 123/73, 98 RA. Exam shows ? visual field cut on left. She
underwent CT which shows possible area of acute subacute infarct
in right MCA area. labs showed : CBC : 9.1-12.5/36.3- 218, Chem 
7
was normal except Cr of 1.7. EKG and trop were unremarkable. She
was transfered to ___ ED for evaluation.

 
Past Medical History:
HTN
Lipids
Depression
Carotid stenosis on right
right eye visual loss 6 months ago, thought to be embolic from
right carotid artery 

 
Social History:
___
Family History:
negative for neurological disorders
 
Physical Exam:
At admission:
99.5 72 140/65 16 99% 2L np  
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa   
Neck: No tenderness to palpation, normal ROM, supple, no carotid
or vertebral bruit
Back: No point tenderness or erythema
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs 
Lung: Clear to auscultation bilaterally 
aBd: +BS soft, nontender 
ext: no edema

Neurologic examination: 
Mental status: Awake, alert, talkative and oriented times 3.
follows both midline and appendicular commands. Attentive, says
___ backwards. Speech is fluent with normal comprehension and
repetition; naming intact. No dysarthria. Reading and writing
intact.  Registers ___. recalls ___ with clue) at 5 mins.
She has simultagnosia on the left side with visual, as well as
tactile stimulus.
 
Cranial Nerves:  
Pupils equally round and reactive to light, 4 to 2 mm
bilaterally. Right eye blind but in left eye, Visual fields-
Normal. Fundus- no papilledema. Extraocular movements intact
bilaterally, no nystagmus.
Sensation to touch and pain intact V1-V3.  Facial movement
symmetric.  Hearing intact to finger rub bilaterally.  Palate
elevation symmetrical. Sternocleidomastoid and trapezius normal
bilaterally. Tongue midline, movements intact
 
Motor: 
Normal bulk bilaterally. Tone normal. No observed myoclonus or
tremor
No pronator drift
  Del Tri  Bi  WF WE FE FF  IP  H  Q DF PF TE TF
L  ___   ___  ___  ___  5  5
R  ___   ___  ___  ___  5  5  
 
Sensation: Intact to light touch, temparature, vibration and
proprioception throughout. extinction to DSS on left
 
Reflexes: Brisk on both (left more than right)
Toes were downgoing on right and upgoing on left
 
Coordination: finger-nose-finger normal, heel to shin normal,
RAMs normal. 

Gait-  Defd
Romberg: Defd
At discharge:
Neuro: R eye blind (chronic). Left visual field cut and left 
visual neglect. Extinction to double sensory stimuli on left. 
normal strength. toe up on L plantar reflex.
 
Pertinent Results:
___ 01:40PM BLOOD WBC-9.5 RBC-4.12* Hgb-12.3 Hct-35.7* 
MCV-87 MCH-29.9 MCHC-34.4 RDW-12.4 Plt ___
___ 04:50AM BLOOD WBC-5.9 RBC-3.99* Hgb-12.0 Hct-34.7* 
MCV-87 MCH-30.0 MCHC-34.5 RDW-12.5 Plt ___
___ 01:40PM BLOOD Neuts-78.7* Lymphs-16.2* Monos-3.1 
Eos-0.8 Baso-1.2
___ 01:40PM BLOOD ___ PTT-22.1 ___
___ 01:40PM BLOOD Glucose-90 UreaN-23* Creat-1.6* Na-131* 
K-3.8 Cl-94* HCO3-25 AnGap-16
___ 04:50AM BLOOD Glucose-97 UreaN-25* Creat-1.6* Na-131* 
K-4.0 Cl-96 HCO3-26 AnGap-13
___ 01:40PM BLOOD Calcium-10.0 Phos-2.7 Mg-2.0
___ 04:50AM BLOOD %HbA1c-5.6 eAG-114
___ 04:50AM BLOOD Triglyc-75 HDL-63 CHOL/HD-2.8 LDLcalc-96

MRI/MRA Brain and neck: Preliminary Read:
-Large subacute infarct in the right MCA distribution - 
involving the right parietal and temporal lobes. No hemorrhagic 
conversion. 
-Poor flow in distal M1 segment of the right MCA. No focal 
occlusion. 
-Mild-to-moderate stenosis of the bilateral carotid arteries at 
the 
bifurcation. Narrowing is most severe in the proximal right ICA, 
though is 
still no more than 50%.  

Carotid Ultrasounds: Preliminary results
Less than 40% stenosis in both left and right ICAs.

TTE:
The left atrium is elongated. No atrial septal defect or patent 
foramen ovale is seen by 2D, color Doppler or saline contrast 
with maneuvers. Left ventricular wall thicknesses and cavity 
size are normal. Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. Overall left 
ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. No mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 
IMPRESSION: No intracardiac source of embolism identified. 
Preserved global biventricular systolic function.  
 
 
Brief Hospital Course:
___ RHW with HTN, lipids and right carotid stenosis with h/o 
right eye blindness though to be embolic in nature from carotid 
stenosis, presents for evaluation. Examination shows left sided 
asimultagnosia , brisk reflexes and upgoing toe on left without 
any other findings. CT head shows an area of acute/ subacute 
ischemia in right MCA region, parietal/temporal lobes. 
.
Neuro: The presentation is consistent with embolic ischemic 
stroke from right carotid. No cardioembolic source nor PFO/ASD 
is evident on TTE with bubble. MRA and carotid ultrasounds were 
performed (CTA avoided given creatine of 1.7) and showed less 
than 40% stenosis of both right and left ICAs. 
- Started Aggrenox, 1 tab po bid
- HbgA1c 5.6; LDL 96. Increased simvastatin from 10 to 40mg po 
daily
- No atrial fibrillation on telemetry. We would prefer to 
monitor for an additional day but due to the patient's strong 
desire to go home, we will arrange for a Holter monitor to be 
placed prior to discharge. The report will be sent to Dr. ___.
- ___ cleared for patient for home with 24 hour supervision 
and home ___ services. The patient's daughter confirm that she 
will have 24 hour supervision between the 2 daughters and 
grandchildren.
- Will follow up in Neurology clinic with Dr. ___.
. 
Cards: Blood pressure well controlled on home medications, 
Lisinopril 10mg po daily and HCTZ 25mg po daily.
- Holter monitor to be placed prior to discharge. The report to 
go to Dr. ___.

 
Medications on Admission:
Celexa 40
Simvastatin 10
HCTZ 25
Ditropan 5
Lorazepam 0.5 prn anxiety
B complex
Vit A, D
Lisinopril 10

 
Discharge Medications:
1. dipyridamole-aspirin 200-25 mg Cap, ER Multiphase 12 hr Sig: 
One (1) Cap PO BID (2 times a day).
Disp:*60 Cap(s)* Refills:*2*
2. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
4. oxybutynin chloride 5 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
5. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. simvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
7. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for sleep.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
right MCA ischemic infarct - embolic
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: complete left visual field cut and visual neglect

 
Discharge Instructions:
Dear ___, 
___ were admitted to the hospital for evaluation of visual 
disturbance on your left. It was determined that ___ had a 
stroke on the right side of your head, in the parietal and 
temporal lobes. The most likely cause for this is an emboli, 
likely from the right carotid artery. Carotid ultrasounds show a 
less than 40% occlusion of the right carotid artery. Please 
start taking the medicine Aggrenox. This medicine will help 
decrease your risk for strokes in the future. 
___ also had several other tests to look for risk factors for 
stroke. Please increase your cholesterol medicine, simvastatin, 
to 40mg daily. 
Additionally we would like to monitor your heart for at least 
another 24 hours. Please wear the Holter monitor ordered and 
return it per their request. 
Please follow up in Neurology clinic with Dr. ___ as scheduled 
below. 
Physical and occupational therapy evaluated ___ and determined 
that for your safety, ___ should have supervision 24 hours a 
day. ___ will also benefit from home physical and occupational 
therapy services. 

 
Followup Instructions:
___